US08309581B2
a) {4-[2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-phenyl}-acetic acid methyl ester
The title compound was prepared in analogy to Example 5, intermediate a, from {4-[2-(4-chloro-2-hydroxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-phenyl}-acetic acid methyl ester and bromomethyl-cyclopentane (CAS Reg. No. 3814-30-0). Brown sticky solid (61%). MS (Turbo Spray): m/z=525.4 (M+H).

reactant | {4-[2-(4-chloro-2-hydroxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-phenyl}-acetic acid methyl ester | COC(CC1=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=C(C=C2)Cl)O)=O | C23H17ClF2N2O3
reactant | bromomethyl-cyclopentane | BrCC1CCCC1 | C6H11Br
product | {4-[2-(4-Chloro-2-cyclopentylmethoxy-phenyl)-5,6-difluoro-benzoimidazol-1-ylmethyl]-phenyl}-acetic acid methyl ester | COC(CC1=CC=C(C=C1)CN1C(=NC2=C1C=C(C(=C2)F)F)C2=C(C=C(C=C2)Cl)OCC2CCCC2)=O | C29H27ClF2N2O3
